US04477447
To a stirred solution of 2-ethoxy-1-ethoxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.85 g) in methanol (57 ml) was slowly added conc. hydrochloric acid (1.13 ml) at room temperature, and stirred at room temperature for 3 hours. The resultant mixture was poured into ice water (280 ml), adjusted to pH 7 to 8 with an aqueous solution of sodium bicarbonate, and then extracted with ethyl acetate (150 ml). The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the residue was subjected to column chromatography on silica gel with a mixture of chloroform and methaol (30:1). The eluate was concentrated under reduced pressure to give 2-ethoxy-1-ethoxymethylethyl 7-[2-(2-aminothiazol-4-yl]-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 1.77 g), mp. 95° to 97° C.

reactant | 2-ethoxy-1-ethoxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 2.85 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(COCC)COCC)C1=O)=NOC | C21H27N5O8S2
reactant | hydrochloric acid | 1.13 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 57 ml | CO | CH4O
product | 2-ethoxy-1-ethoxymethylethyl 7-[2-(2-aminothiazol-4-yl]-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 1.77 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(COCC)COCC)C1=O)=NOC | C20H27N5O7S2
